US06680313B2
a) 7-Benzylthioimidazo[5,1-b]thiazole
A solution of 396 mg of 7-acetylthioimidazo[5,1-b]thiazole in 2 ml of methanol was cooled in ice. A 1.018 M sodium methoxide/methanol solution (2.16 ml) was added to the cooled solution, and the mixture was stirred for 30 min. Benzyl bromide (0.262 ml) was added thereto, and the mixture was stirred at that temperature for 2 hr. An aqueous ammonium chloride solution was added to the reaction solution, and the mixture was extracted with ethyl acetate twice. The organic layer was washed with brine twice, and was dried over anhydrous magnesium sulfate. The solvent was removed by distillation, and the residue was purified by column chromatography on silica gel (dichloromethane:methanol=30:1) to prepare 419 mg of 7-benzylthioimidazo[5,1-b]thiazole.

reactant | 7-acetylthioimidazo[5,1-b]thiazole | 396 mg | C(C)(=O)SC=1N=CN2C1SC=C2 | C7H6N2OS2
reactant | sodium methoxide methanol | 1.018 M, 2.16 ml | C[O-].[Na+].CO
reactant | Benzyl bromide | 0.262 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 2 ml | CO | CH4O
product | 7-Benzylthioimidazo[5,1-b]thiazole | C(C1=CC=CC=C1)SC=1N=CN2C1SC=C2 | C12H10N2S2
